US05041638
6-(Methoxycarbonylphenylthio)-6-tert.butyloxycarbonylhexanoic acid methyl ester
1 g (30.2 mmol) of 2-(4-methoxycarbonylphenylthio)-2-tert. butoxycarbonylcyclohexanone is dissolved, together with 0.37 g (3.3 mmol) of potassium tert. butylate, in 100 ml of methanol of reagent purity and the solutions is left to stand for 2 hours at room temperature. It is then diluted with 500 ml of ethyl acetate and the organic phase is washed with water and a saturated sodium chloride solution, dried with sodium sulphate and concentrated by evaporation. After drying in a high vacuum 11.3 g of an oily product are obtained, which is sufficiently pure to be used for further reactions.

reactant | 2-(4-methoxycarbonylphenylthio)-2-tert. butoxycarbonylcyclohexanone | 30.2 mmol, 1 g | COC(=O)C1=CC=C(C=C1)SC1(C(CCCC1)=O)C(=O)OC(C)(C)C | C19H24O5S
reactant | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 6-(Methoxycarbonylphenylthio)-6-tert.butyloxycarbonylhexanoic acid methyl ester | COC(CCCCC(C(=O)OC(C)(C)C)SC1=C(C=CC=C1)C(=O)OC)=O | C20H28O6S
